US04053600
A mixture of 10.0 g. of 6,7-dimethoxy-2-chloro-4-hydrazinoquinazoline, 1.0 g. of p-toluenesulfonic acid and 150 ml. of trimethoxy methane is refluxed with stirring for 19 hours and then stirred for 24 hours at room temperature. The resulting mixture is evaporated in vacuo to dryness and the residue dissolved in 1500 ml. of methylene chloride. This solution is extracted twice with sodium carbonate solution, washed neutral with water, dried and evaporated in vacuo to dryness. The residue is twice crystallized from methylene chloride/ diethyl ether and then from ethanol to obtain 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline, m.p. 269°-271° C.

reactant | 6,7-dimethoxy-2-chloro-4-hydrazinoquinazoline | COC=1C=C2C(=NC(=NC2=CC1OC)Cl)NN | C10H11ClN4O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethoxy methane | COC(OC)OC | C4H10O3
product | 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline | ClC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C11H9ClN4O2
